US07078527B2
Preparation of 3,4,4-trifluoro-3-butenyl dithiocarbamate (ammonium dithiocarbamate process)
2.8 g (25 mmol) of ammonium dithiocarbamate in 40 ml of ethanol are admixed dropwise with 5.32 g (26.3 mmol; purity 93.2%) of 4-bromo-1,1,2-trifluoro-1-butene, stirred at 40° C. for 3 h, another 2.8 g of ammonium dithiocarbamate is added after 1 h, and everything is left to stand at room temperature for 8 h. The filtrate is filtered off with suction and concentrated by evaporation under reduced pressure, the residue taken up in dichloromethane and washed once with water, and the organic phase dried over sodium sulphate. After concentration by evaporation under reduced pressure, 4.3 g (63% of theory; purity by GC/MS: 74 area %) of a semicrystalline residue are obtained.

reactant | ammonium dithiocarbamate | 25 mmol, 2.8 g | C(N)([S-])=S.[NH4+]
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 26.3 mmol, 5.32 g | BrCCC(=C(F)F)F | C4H4BrF3
reactant | ammonium dithiocarbamate | 2.8 g | C(N)([S-])=S.[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3,4,4-trifluoro-3-butenyl dithiocarbamate | C(N)(SCCC(=C(F)F)F)=S | C5H6F3NS2
